US07423052B2
Description 43: (RS)-2-(5-(4-Fluorophenyl)-furan-2-ylmethyl)-piperidine
To a solution of (RS)-1-(tert-butyloxycarbonyl)-2-((5-(4-fluorophenyl)-furan-2-yl)carbonyl)piperidine (2.0 g, 5.36 mmol) in diethylene glycol (20 g), was added hydrazine hydrate (0.31 ml, 5.36 mmol) and the resultant mixture heated at 100° C. for 30 min. After cooling to room temperature, potassium hydroxide (1.0 g, 17.8 mmol) was added and the mixture heated at 200° C. for 18 h. The reaction mixture was then poured into water (100 ml) and extracted with diethyl ether (3×75 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo to give the title compound as a brown oil (0.88 g, 63%).

reactant | (RS)-1-(tert-butyloxycarbonyl)-2-((5-(4-fluorophenyl)-furan-2-yl)carbonyl)piperidine | 5.36 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C=1OC(=CC1)C1=CC=C(C=C1)F | C21H24FNO4
reactant | hydrazine hydrate | 5.36 mmol, 0.31 ml | O.NN
reactant | potassium hydroxide | 17.8 mmol, 1.0 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | diethylene glycol | 20 g | C(COCCO)O | C4H10O3
product | (RS)-2-(5-(4-Fluorophenyl)-furan-2-ylmethyl)-piperidine | 0.88 g, 63% | FC1=CC=C(C=C1)C1=CC=C(O1)CC1NCCCC1 | C16H18FNO
